US05344828
Ethyl 4-(2-Chlorodibenz[b,f][1,4]oxazepin-11-yl)-1-piperazinecarboxylate
A mixture of 2.20 g of 2-chloro-11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine, 0.76 g of ethyl chloroformate and 0.97 g of potassium carbonate in 20 ml of N,N-dimethylformamide was stirred at 80° C. for 3 hrs. Ice water was added to the reaction mixture and extracted with ether. The etheral layer was washed with water, dried and concentrated. The residue was chromatographed on silica gel using a mixture of n-hexane and ethyl acetate (1:2) as eluents to give 2.62 g of colorless crystals, which were recrystallized from isopropyl ether to give colorless prisms, mp 121.5°-122.5° C.

reactant | 2-chloro-11-(1-piperazinyl)dibenz[b,f][1,4]oxazepine | 2.20 g | ClC=1C=CC2=C(C(=NC3=C(O2)C=CC=C3)N3CCNCC3)C1 | C17H16ClN3O
reactant | ethyl chloroformate | 0.76 g | ClC(=O)OCC | C3H5ClO2
reactant | potassium carbonate | 0.97 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Ethyl 4-(2-Chlorodibenz[b,f][1,4]oxazepin-11-yl)-1-piperazinecarboxylate | 2.62 g | ClC=1C=CC2=C(C(=NC3=C(O2)C=CC=C3)N3CCN(CC3)C(=O)OCC)C1 | C20H20ClN3O3
